US04077941
Ethyl β-(N-methyl-n-butylamino)-propionate
A stirred mixture of N-methyl-n-butylamine (42.8 g., 0.49 mole) and ethyl acrylate (55 g., 0.54 mole) was heated at 80°-90° C for 20 hours. Excess acrylate was evaporated under reduced pressure, and the residue distilled to give 80.0 g (87%) of the title compound, b.p. 97° C at 12 mm.

reactant | N-methyl-n-butylamine | 0.49 mole, 42.8 g | CNCCCC | C5H13N
reactant | ethyl acrylate | 0.54 mole, 55 g | C(C=C)(=O)OCC | C5H8O2
product | Ethyl β-(N-methyl-n-butylamino)-propionate | 80.0 g, 87% | CN(CCC(=O)OCC)CCCC | C10H21NO2
